US08614328B2
A mixture of 3-(3-methyl-benzyloxy)-phthalic acid (1.8 g, 6.4 mmol), alpha-amino-glutarimide hydrochloride (1.1 g, 6.8 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 2-(2,6-dioxo-piperidin-3-yl)-4-(3-methyl-benzyloxy)-isoindole-1,3-dione as a white solid (1.2 g, 48% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 60/40 CH3CN/0.1% H3PO4, 3.16 min (99.9%); mp, 195-197° C.; 1H NMR (DMSO-d6) δ 2.00-2.07 (m, 1H, CHH), 2.33 (s, 3H, CH3), 2.54-2.62 (m, 2H, CH2), 2.83-2.95 (m, 1H, CHH), 5.10 (dd, J=6, 12 Hz, 1H, CH), 5.33 (s, 2H, CH2), 7.15-7.85 (m, 7H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.00, 21.96, 30.92, 48.74, 70.08, 115.49, 116.58, 120.19, 124.40, 127.85, 128.40, 128.60, 133.26, 136.03, 136.98, 137.64, 155.53, 165.30, 166.77, 169.91, 172.75. Anal Calcd For C21H18N2O5: C, 66.66; H, 4.79; N, 7.40. Found: C, 66.50; H, 4.79; N, 7.34.

reactant | 3-(3-methyl-benzyloxy)-phthalic acid | 6.4 mmol, 1.8 g | CC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC1 | C16H14O5
reactant | alpha-amino-glutarimide hydrochloride | 6.8 mmol, 1.1 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(2,6-dioxo-piperidin-3-yl)-4-(3-methyl-benzyloxy)-isoindole-1,3-dione | 1.2 g, 48% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)OCC1=CC(=CC=C1)C)=O)=O | C21H18N2O5
